US08791132B2
To solution of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole (160 mg, 0.8 mmol) in DMF (3 mL) was added NaH (60%, 96 mg, 2.4 mmol). After stirring for 5 min at RT, 1-methyl-4-(oxiran-2-yl)-1H-pyrazole (150 mg, 1.2 mmol) was added into the reaction mixture, which was stirred at RT for 26 h. The progress of reaction was monitored by TLC, NMR and LCMS. The reaction mixture was quenched with ice-water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography (EtOH-Hex) to yield 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(1-methyl-1H-pyrazol-4-yl)ethanol. The product was further purified by chiral HPLC separation. 1H NMR (CDCl3, freebase) δ (ppm): 7.46 (s, 1H), 7.2 (s, 1H), 7.19 (s, 1H), 7.15 (d, 1H), 6.98 (d, 1H), 5.0 (t, 1H), 4.2 (d, 2H), 3.82 (s, 3H), 3.6 (s, 2H), 2.9 (m, 1H), 2.8 (m, 2H), 2.7 (m, 1H), 2.5 (s. 3H), 2.42 (s, 3H).

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 0.8 mmol, 160 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | NaH | 2.4 mmol, 96 mg | [H-].[Na+]
reactant | 1-methyl-4-(oxiran-2-yl)-1H-pyrazole | 1.2 mmol, 150 mg | CN1N=CC(=C1)C1OC1 | C6H8N2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(1-methyl-1H-pyrazol-4-yl)ethanol | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C=2C=NN(C2)C)CC1 | C19H24N4O
